US06288105B1
Preparation of 2-(4-Aminophenyl)-6-hydroxy-3-[3-methoxy-4-(1-pyrrolidinyl)-benzyl]benzo[b]thiophene
2-(4-Aminophenyl)-6-benzyloxy 3-[3-methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]benzo[b]thiophene (103 mg) in THF (4.0 mL) was treated with a solution of ammonium formate (25% in H2O, 2.0 mL) and 10% palladium on carbon (100 mg) sequentially at ambient temperature. The resulting mixture was stirred at ambient temperature under argon for 21 h before filtered through diatomaceous earth followed by rinsing with dichloromethane and methanol. The filtrate was extracted with dichloromethane (20 mL×3) from water (30 mL). The combined organic layers were dried with sodium sulfate and concentrated under reduced pressure. Chromatography with Et3N:MeOH:EtOAc (5:10:85) afforded the product (80 mg).

reactant | 2-(4-Aminophenyl)-6-benzyloxy 3-[3-methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]benzo[b]thiophene | 103 mg | NC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OCC2=CC=CC=C2)CC2=CC(=C(C=C2)CN2CCCC2)OC | C34H34N2O2S
reactant | ammonium formate | 2.0 mL | C(=O)[O-].[NH4+]
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 2-(4-Aminophenyl)-6-hydroxy-3-[3-methoxy-4-(1-pyrrolidinyl)-benzyl]benzo[b]thiophene | 80 mg | NC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)CC2=CC(=C(C=C2)N2CCCC2)OC | C26H26N2O2S
